US05624937
1-[4-(6-Methoxy-2-quinolylthio)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)thiourea
2-(4-aminophenylthio)-6-methoxyquinoline (15.0 moles, 4.2 g) and 4-chloro-3-trifluoromethylphenylisothiocyanate (15.0 mmoles, 3.6 g) were reacted according to procedure C to yield 5.6 g, 72% of the title compound. Mass Spec (FD) 519. Calculated for C24H17ClF3N3OS2 : C, 55.44; H, 3.30; N, 8.08. Found: C, 55.62; H, 3.43; N, 8.27.

reactant | 2-(4-aminophenylthio)-6-methoxyquinoline | 15.0 moles, 4.2 g | NC1=CC=C(C=C1)SC1=NC2=CC=C(C=C2C=C1)OC | C16H14N2OS
reactant | 4-chloro-3-trifluoromethylphenylisothiocyanate | 15.0 mmoles, 3.6 g | ClC1=C(C=C(C=C1)N=C=S)C(F)(F)F | C8H3ClF3NS
product | 1-[4-(6-Methoxy-2-quinolylthio)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)thiourea | 5.6 g, 72% | COC=1C=C2C=CC(=NC2=CC1)SC1=CC=C(C=C1)NC(=S)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C24H17ClF3N3OS2
